US08633207B2
To N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazolin-8-yl)acetamide (90 mg, 0.24 mmol) in DCM (5 mL) at 0° C. was added 3-chloroperbenzoic acid (70%, 77 mg, 0.3 mmol) and the mixture stirred for 40 min. The mixture was diluted with DCM and then aq sodium thiosulfate and saturated aq sodium bicarbonate were added. The organic layer was separated, dried over sodium sulfate, and concentrated under reduced pressure. To the residue were added THF (3 mL) and 5-methyl-1H-pyrazol-3-amine (107 mg, 1.1 mmol) and the mixture was stirred at rt for 1 h. The mixture was concentrated under reduced pressure and purified by preparative HPLC (Varian diphenyl reverse phase column, eluting with a gradient of solvent B=0.05% HOAc/ACN and solvent A=0.05% HOAc/H2O) to afford N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-8-yl)acetamide (37 mg, 36%). 1H NMR (300 MHz, DMSO-d6) δ ppm 2.17 (s, 3H) 2.24 (s, 3H) 5.93 (s, 1H) 7.59 (t, J=8.10 Hz, 1H) 7.92-8.12 (m, 2H) 8.34 (d, J=8.29 Hz, 1H) 8.57-8.75 (m, 2H) 9.52 (s, 1H) 10.76 (br s, 1H) 12.20 (br s, 1H); LC-MS (ESI) m/z 428 (M+H)+.

reactant | N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-(methylthio)quinazolin-8-yl)acetamide | 0.24 mmol, 90 mg | FC(C1=NC2=C(C=CC=C2C(=N1)SC)NC(C)=O)(C1=NC=C(C=C1)F)F | C17H13F3N4OS
reactant | 3-chloroperbenzoic acid | 0.3 mmol, 77 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 5-methyl-1H-pyrazol-3-amine | 1.1 mmol, 107 mg | CC1=CC(=NN1)N | C4H7N3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | N-(2-(difluoro(5-fluoropyridin-2-yl)methyl)-4-((5-methyl-1H-pyrazol-3-yl)amino)quinazolin-8-yl)acetamide | 37 mg, 36% | FC(C1=NC2=C(C=CC=C2C(=N1)NC1=NNC(=C1)C)NC(C)=O)(C1=NC=C(C=C1)F)F | C20H16F3N7O
